US07494992B2
Preparation 148 (3aS,4R,6aS,7R,10S,10aS)-7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate
A solution of the product of (3aS,4R,6aS,7R,10S,10aS)-7-(1,2-dihydroxy-1-methylethyl)-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate (Preparation 147, 930 mg) in methanol (50 ml) was treated with sodium periodate (540 mg) and sonicated in an ultrasonic bath for 15 minutes. As the sodium periodate dissolved, a cloudy suspension formed. A further amount of sodium periodate (540 mg) was added and sonication was resumed for 15 min. After standing for 1 hour, the reaction mixture was diluted with water and solvent was evaporated. The residue was partitioned between water and dichloromethane and the organic phase was separated, washed with water and brine, dried (Na2SO4) and, concentrated in vacuo. The residual oil was purified by flash column chromatography on silica gel eluting with ethyl acetate:hexane (1:4) to give the product as a colourless oil (680 mg).

reactant | (3aS,4R,6aS,7R,10S,10aS)-7-(1,2-dihydroxy-1-methylethyl)-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 930 mg | C(C)(=O)O[C@@H]1C(=C[C@H]2[C@@H](CC[C@@H]([C@@]23[C@H]1OC(O3)(C)C)C)C(CO)(C)O)C | C20H32O6
reactant | sodium periodate | 540 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 540 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | (3aS,4R,6aS,7R,10S,10aS)-7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 680 mg | C(C)(=O)O[C@@H]1C(=C[C@H]2[C@@H](CC[C@@H]([C@@]23[C@H]1OC(O3)(C)C)C)C(C)=O)C | C19H28O5
